US05643932
In 10 ml of pyridine was dissolved 1 g of 2-(3,4-dimethoxyphenyl)-4-(1,2,3,4-tetrahydroquinolin-6-yl)thiazole. Thereto was added 0.44 g of benzoyl chloride at 0° C., and the mixture was stirred for 5 hours. The solution was concentrated and mixed with ethanol and water in this order. The resulting crystals were collected by filtration and recrystallized from ethanol to obtain 0.7 g of 2-(3,4-dimethoxyphenyl)-4-(1-benzoyl-1,2,3,4-tetrahydroquinolin-6-yl)thiazole as a light yellow powder.

reactant | 2-(3,4-dimethoxyphenyl)-4-(1,2,3,4-tetrahydroquinolin-6-yl)thiazole | 1 g | COC=1C=C(C=CC1OC)C=1SC=C(N1)C=1C=C2CCCNC2=CC1 | C20H20N2O2S
reactant | benzoyl chloride | 0.44 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-(3,4-dimethoxyphenyl)-4-(1-benzoyl-1,2,3,4-tetrahydroquinolin-6-yl)thiazole | 0.7 g | COC=1C=C(C=CC1OC)C=1SC=C(N1)C=1C=C2CCCN(C2=CC1)C(C1=CC=CC=C1)=O | C27H24N2O3S
